US04396627
2. 2-Acetoxy-1-phenylpropane
Acetyl chloride (16.7 g) in dry ether (50 ml) was added dropwise to a stirred solution of 1-phenylpropan-2-ol (26.4 g) in dry ether (250 ml). The mixture was refluxed for 2 h, washed with sodium bicarbonate solution, dried (MgSO4) and evaporated to a colourless oil (27.5 g).

reactant | Acetyl chloride | 16.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-phenylpropan-2-ol | 26.4 g | C1(=CC=CC=C1)CC(C)O | C9H12O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-Acetoxy-1-phenylpropane | C(C)(=O)OC(CC1=CC=CC=C1)C | C11H14O2
